US07678917B2
To a stirred suspension of the crude (1SR,3SR,4RS)-3-aminomethyl-4-hydroxy-cyclopentanecarboxylic acid methyl ester (189 mg) at r.t. in DMF (5 ml) under an argon atmosphere were added N-ethyldiisopropylamine (0.74 ml), BOP (531 mg) and 5-chloro-2-thiophenecarboxylic acid (195 mg). The reaction mixture was stirred over night, then diluted with EtOAc and washed with H2O. The aqueous phase was back extracted with EtOAc. The combined organics were washed with H2O and brine, dried (MgSO4), filtered and concentrated. The crude product was purified by column chromatography (silica gel; gradient: CH2Cl2→CH2Cl2/MeOH 93:7) to give (1SR,3SR,4RS)-3-{[(5-chloro-thiophene-2-carbonyl)-amino]-methyl}-4-hydroxy-cyclopentanecarboxylic acid methyl ester (111 mg) as light brown gum. MS: 318.0 ([M+H]+).

reactant | (1SR,3SR,4RS)-3-aminomethyl-4-hydroxy-cyclopentanecarboxylic acid methyl ester | 189 mg | COC(=O)C1CC(C(C1)O)CN | C8H15NO3
reactant | N-ethyldiisopropylamine | 0.74 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | BOP | 531 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 5-chloro-2-thiophenecarboxylic acid | 195 mg | ClC1=CC=C(S1)C(=O)O | C5H3ClO2S
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (1SR,3SR,4RS)-3-{[(5-chloro-thiophene-2-carbonyl)-amino]-methyl}-4-hydroxy-cyclopentanecarboxylic acid methyl ester | 111 mg | COC(=O)C1CC(C(C1)O)CNC(=O)C=1SC(=CC1)Cl | C13H16ClNO4S
